US07863269B2
12f) 6-Aminomethyl-4-ethoxy-N-methylnicotinamide
4-Ethoxy-5-methylcarbamoylpyridin-2-ylmethyl methanesulfonate (436 mg), dissolved in abs. MeOH (7 ml), was added dropwise to a methanolic ammonia solution (7.1 ml; 7N) in a microwave vessel at RT and with stirring in the course of 10 min. After standing overnight, the solvent was stripped off and the residue was purified by means of preparative HPLC. The product-containing fractions were combined, freed from the acetonitrile and freeze-dried. The product was treated with saturated sodium chloride solution and rendered alkaline with potassium carbonate. After extraction with methylene chloride, the combined organic phases were dried with sodium sulfate, filtered and concentrated. 71 mg of the title compound were obtained.

reactant | 4-Ethoxy-5-methylcarbamoylpyridin-2-ylmethyl methanesulfonate | 436 mg | CS(=O)(=O)OCC1=NC=C(C(=C1)OCC)C(NC)=O | C11H16N2O5S
reactant | ammonia | 7N, 7.1 ml | N | H3N
solvent | MeOH | 7 ml | CO | CH4O
product | 6-Aminomethyl-4-ethoxy-N-methylnicotinamide | 71 mg | NCC1=NC=C(C(=O)NC)C(=C1)OCC | C10H15N3O2
